US04939117
15.1 g of 1,1,5,5-tetra-(p-diethylaminophenyl)-2,4-pentadiene-1ol perchlorate prepared in Synthesis Example 5 was dissolved in 200 ml of methanol. To this solution, 2.53 g of sodium hydroxide was added. The mixture was refluxed for 2 hours and then cooled. Crystals separated out in the reaction mixture. The crystals were filtered off, washed with water several times, and dried in reduced pressure. The crystals were recrystallized from cyclohexane, whereby 11.7 g of 1,1,5,5-tetra-(p-diethylaminophenyl)-3-hydroxy-1,4-pentadiene was obtained in the form of light green crystals. The melting point of the product was 136.5° to 137.5° C.

reactant | 1,1,5,5-tetra-(p-diethylaminophenyl)-2,4-pentadiene-1ol perchlorate | 15.1 g | Cl(=O)(=O)(=O)OC(C=CC=C(C1=CC=C(C=C1)N(CC)CC)C1=CC=C(C=C1)N(CC)CC)(C1=CC=C(C=C1)N(CC)CC)C1=CC=C(C=C1)N(CC)CC | C45H59ClN4O4
reactant | sodium hydroxide | 2.53 g | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 1,1,5,5-tetra-(p-diethylaminophenyl)-3-hydroxy-1,4-pentadiene | 11.7 g | C(C)N(C1=CC=C(C=C1)C(=CC(C=C(C1=CC=C(C=C1)N(CC)CC)C1=CC=C(C=C1)N(CC)CC)O)C1=CC=C(C=C1)N(CC)CC)CC | C45H60N4O
